US06906053B2
4-[(2-isopropyl-1H-benzimidazol-1-yl)methyl]aniline
A solution of 2-isopropylbenzimidazole (4.0 g, 25 mmol) in THF was treated with sodium hydride (1.00 g, 25 mmol, 60% dispersed in oil) under N2 atmosphere and stirred for 2 hr. 4-Chloromethyl-1-nitrobenzene (4.3 g, 25 mmol) was added and the reaction stirred for 16 hr. The reaction was worked by extraction from NaHCO3 with EtOAc×3, the combined organic layers were dried with MgSO4, filtered, and concentrated. This material was converted to the aniline as shown in Example 200. MS found: (M+H)=267.

reactant | 2-isopropylbenzimidazole | 25 mmol, 4.0 g | C(C)(C)C=1NC2=C(N1)C=CC=C2 | C10H12N2
reactant | sodium hydride | 25 mmol, 1.00 g | [H-].[Na+]
reactant | 4-Chloromethyl-1-nitrobenzene | 25 mmol, 4.3 g | ClCC1=CC=C(C=C1)[N+](=O)[O-] | C7H6ClNO2
solvent | THF | C1CCOC1 | C4H8O
product | 4-[(2-isopropyl-1H-benzimidazol-1-yl)methyl]aniline | C(C)(C)C1=NC2=C(N1CC1=CC=C(N)C=C1)C=CC=C2 | C17H19N3
